US04808605
A solution of 6.4 g (0.015 mol) of 2-[3-(N-benzyloxycarbonylmethylamino)propyl]-4,5-diphenylimidazole in 120 ml of dimethylformamide is treated at 15°-20° under argon with 0.018 mol of sodium hydride (0.8 g of a 55% dispersion in mineral oil) and thereupon stirred at room temperature for a further 30 minutes. A solution of 1.85 ml (0.03 mol) of methyl iodide in 10 ml of dimethylformamide is added thereto at 15°-20° within 15 minutes and the mixture is stirred at room temperature for a further 3 hours. After concentration under reduced pressure the residue is partitioned between ice-water and ethyl acetate. The organic phase, dried over sodium sulphate, is evaporated and the residual oil is chromatographed on 100 g of silica gel with ethyl acetate as the elution agent. The 2-[3-(N-benzyloxycarbonylmethylamino)propyl]-1-methyl-4,5-diphenylimidazole (6.4 g of oil) obtained is dissolved in 300 ml of methanol and hydrogenated at room temperature and normal pressure in the presence of 1 g of 5% palladium-on-active charcoal. The product, isolated in the usual manner, is chromatographed on 70 g of silica gel with methanol/concentrated ammonium hydroxide (100:1) as the elution agent. There are obtained 2.95 g (64%) of 1-methyl-2-[3-(methylamino)propyl]-4.5-diphenylimidazole as a thick oil.

reactant | 2-[3-(N-benzyloxycarbonylmethylamino)propyl]-4,5-diphenylimidazole | 0.015 mol, 6.4 g | C(C1=CC=CC=C1)OC(=O)CNCCCC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H27N3O2
reactant | sodium hydride | 0.018 mol | [H-].[Na+]
reactant | methyl iodide | 0.03 mol, 1.85 ml | CI | CH3I
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[3-(N-benzyloxycarbonylmethylamino)propyl]-1-methyl-4,5-diphenylimidazole | 6.4 g | C(C1=CC=CC=C1)OC(=O)CNCCCC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C | C28H29N3O2
